US08084448B2
C. {2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetonitrile
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and (2-iodomethylphenyl)-acetonitrile analogous to Example 310, steps C, D and E. (M−1)−=356. HPLC retention time=0.93 min (Method A).

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | (2-iodomethylphenyl)-acetonitrile | ICC1=C(C=CC=C1)CC#N | C9H8IN
product | {2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-phenyl}-acetonitrile | OC=1C=C(CC2=C(C=CC=C2)CC#N)C=CC1N1S(NC(C1)=O)(=O)=O | C17H15N3O4S
